US07053107B2
N-(1-Methyl-1H-benzoimidazol-2-ylmethyl)-2-[3-[2-(4-methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzamide
Prepared in a similar manner to that described for Example 6 above, except using C-(1-Methyl-1H-benzoimidazol-2-yl)-methylamine hydrochloride N and 2-[3-[2-(4-Methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid. 1H NMR (DMSO-d6) δ 9.82 (1H, s), 9.20 (1H, t, J=5.3 Hz), 8.46 (1H, d, J=4.9 Hz), 8.07 (1H, d, J=8.9 Hz), 7.85 (1H, d, J=16.4 Hz), 7.74 (1H, d, J=7.3 Hz), 7.58 (1H, d, J=7.2 Hz), 7.50 (6H, m), 7.19 (4H, m), 6.92 (1H, t, J=8.1 Hz), 5.78 (1H, dd, J=2.5, 9.5 Hz), 4.79 (2H, d, J=5.5 Hz), 3.89 (1H,m), 3.83 (3H, s), 3.71 (1H, m), 2.41 (1H, m), 2.35 (3H, s), 2.00 (2H, m), 1.74 (1H, m), 1.57 (2H, m).

reactant | C-(1-Methyl-1H-benzoimidazol-2-yl)-methylamine hydrochloride | Cl.CN1C(=NC2=C1C=CC=C2)CN
reactant | 2-[3-[2-(4-Methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid | CC1=CC(=NC=C1)C=CC1=NN(C2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1)C1OCCCC1 | C27H26N4O3
product | N-(1-Methyl-1H-benzoimidazol-2-ylmethyl)-2-[3-[2-(4-methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzamide | CN1C(=NC2=C1C=CC=C2)CNC(C2=C(C=CC=C2)NC2=CC=C1C(=NN(C1=C2)C2OCCCC2)C=CC2=NC=CC(=C2)C)=O | C36H35N7O2
